US05935993
(E)-2-(Benzylaminosulfonyl)-3-(3,5-di-t-butyl-4-hydroxyphenyl)acrylonitrile
A mixture of 250 mg of 3,5-di-t-butyl-4-hydroxybenzaldehyde and 230 mg of N-benzyl cyanomethyl sulfonamide in 2 ml of ethanol with 2 drops of piperidine was heated at 100° C. for 3 hours. The cooled mixture was then diluted with 10 ml of water and extracted with 50 ml of ethyl acetate. The organic extract was then washed with brine, dried over sodium sulfate, filtered and concentrated, Crystallization of the crude with ethyl acetate and hexane yield 206 mg of the titled compound.

reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | 250 mg | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | N-benzyl cyanomethyl sulfonamide | 230 mg | C(C1=CC=CC=C1)NS(=O)(=O)CC#N | C9H10N2O2S
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | water | 10 ml | O | H2O
product | (E)-2-(Benzylaminosulfonyl)-3-(3,5-di-t-butyl-4-hydroxyphenyl)acrylonitrile | C(C1=CC=CC=C1)NS(=O)(=O)\C(\C#N)=C\C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C24H30N2O3S
